US08258140B2
DIPEA (0.159 mL, 0.92 mmol) was added to 6-[4-[4-[3-(piperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazine (150 mg, 0.31 mmol), acetic acid (0.021 mL, 0.37 mmol) and HATU (139 mg, 0.37 mmol) in DMF (2 mL). The resulting solution was stirred at ambient temperature for 16 hours then purified by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to give 6-[4-[4-[3-(4-acetylpiperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine (75 mg, 46.1%) as a solid.

reactant | DIPEA | 0.92 mmol, 0.159 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-[4-[4-[3-(piperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)-7,8-dihydro-[1,2,4]triazolo[4,3-b]pyridazine | 0.31 mmol, 150 mg | N1(CCNCC1)CCCOC1=CC=C(C=C1)C1CCN(CC1)C=1CCC=2N(N1)C(=NN2)C(F)(F)F | C24H32F3N7O
reactant | acetic acid | 0.37 mmol, 0.021 mL | C(C)(=O)O | C2H4O2
reactant | HATU | 0.37 mmol, 139 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 6-[4-[4-[3-(4-acetylpiperazin-1-yl)propoxy]phenyl]piperidin-1-yl]-3-(trifluoromethyl)-7,8-dihydro[1,2,4]triazolo[4,3-b]pyridazine | 75 mg, 46.1% | C(C)(=O)N1CCN(CC1)CCCOC1=CC=C(C=C1)C1CCN(CC1)C=1CCC=2N(N1)C(=NN2)C(F)(F)F | C26H34F3N7O2
